US07550598B2
(Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)cyclopentanecarboxamide
The title compound was synthesized using (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one and cyclopentanecarbonyl chloride in THF according to the procedure described in the synthesis of Example 26. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.69 (t, J=7.33 Hz, 3H) 1.32 (dq, J=14.97, 7.39 Hz, 2H) 1.54-1.63 (m, 2H) 1.65-1.77 (m, 4H) 1.82-1.92 (m, 2H) 2.20 (t, J=7.33 Hz, 2H) 2.83 (dt, J=15.41, 7.71 Hz, 1H) 6.73 (s, 1H) 7.59-7.70 (m, 3H) 7.83-7.94 (m, 4H) 8.13 (d, J=8.08 Hz, 1H) 10.26 (s, 1H); ESI-MS: m/z calc'd for C27H28N4O2S 472.6. found 473.3 (M+H)+.

reactant | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C21H20N4OS
reactant | cyclopentanecarbonyl chloride | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | THF | C1CCOC1 | C4H8O
product | (Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)cyclopentanecarboxamide | O=C1\C(\C(=NN1)CCC)=C\1/NC2=CC=CC=C2C(=C1)SC1=CC=C(C=C1)NC(=O)C1CCCC1 | C27H28N4O2S
